US06627628B1
2-(4-Chlorophenyl)-4-chloro-6,7-dihydro-5H-cyclopenta[d]pyrimidine
8.0 g of 2-(4-chlorophenyl)-4-hydroxy-6,7-dihydro-5H-cyclopenta[d]pyrimidine are heated to 100° C. in 10 ml of phosphorus oxychloride. After 3 hours, the cooled solution was cautiously poured onto ice water. The crystalline product was filtered off with suction, washed well with water and dried in vacuo at room temperature. Yield: 6.5 g. M.p.: 1450° C.

reactant | 2-(4-chlorophenyl)-4-hydroxy-6,7-dihydro-5H-cyclopenta[d]pyrimidine | 8.0 g | ClC1=CC=C(C=C1)C=1N=C(C2=C(N1)CCC2)O | C13H11ClN2O
reactant | phosphorus oxychloride | 10 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
product | 2-(4-Chlorophenyl)-4-chloro-6,7-dihydro-5H-cyclopenta[d]pyrimidine | ClC1=CC=C(C=C1)C=1N=C(C2=C(N1)CCC2)Cl | C13H10Cl2N2
